US06506901B2
Step B: 4-{[(Octylamino)carbonyl]amino}benzenesulfonyl Chloride
N-octyl-N′-phenylurea (10 g, 215 mmol) was dissolved in chlorosulfonic acid 925 g and stirred for 14 hours at ambient temperature. The reaction was poured into ice and extracted with ethyl acetate. The organic layer was washed with cold, dilute aqueous sodium bicarbonate, then dried (Na2SO4). The solvent was evaporated in vacuo to give the product as a white solid (11.46 g, 33 mmol).

reactant | N-octyl-N′-phenylurea | 215 mmol, 10 g | C(CCCCCCC)NC(=O)NC1=CC=CC=C1 | C15H24N2O
reactant | chlorosulfonic acid | 925 g | ClS(=O)(=O)O | ClHO3S
product | 4-{[(Octylamino)carbonyl]amino}benzenesulfonyl Chloride | 33 mmol, 11.46 g | C(CCCCCCC)NC(=O)NC1=CC=C(C=C1)S(=O)(=O)Cl | C15H23ClN2O3S
